US05948911
The reaction procedure as above wherein 3,4-methylenedioxy-benzylamine is reacted with 4-(4-chloro-5,6,7,8-tetrahydro-[1]-benzothieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester yields 4-[4-(3,4-methylenedioxybenzylamino)-5,6,7,8-tetrahydro-[1]-benzothieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester, m.p. 198° C.

reactant | 3,4-methylenedioxy-benzylamine | C1OC=2C=C(CN)C=CC2O1 | C8H9NO2
reactant | 4-(4-chloro-5,6,7,8-tetrahydro-[1]-benzothieno-[2,3-d]-pyrimidin-2-yl)-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC1=C2CCCC1)Cl)=O | C18H15ClN2O2S
product | 4-[4-(3,4-methylenedioxybenzylamino)-5,6,7,8-tetrahydro-[1]-benzothieno-[2,3-d]-pyrimidin-2-yl]-benzoic acid methylester | COC(C1=CC=C(C=C1)C=1N=C(C2=C(N1)SC1=C2CCCC1)NCC1=CC2=C(C=C1)OCO2)=O | C26H23N3O4S
